US07378448B2
Part B: {2-[4-(4-Azidosulfonylphenoxy)phenyl]ethyl} carbamic acid tert-butyl ester
Dissolve [2-(4-hydroxyphenyl)ethyl]carbamic acid tert-butyl ester (0.594 g, 2.50 mmol) in DMF (12.5 mL). Add NaH (80% in mineral oil) (0.083 g, 2.75 mmol). Stir at room temperature for 30 minutes. Add 4-fluorobenzenesulfonyl azide (0.504 g, 2.50 mmol) and heat to 60° C. Remove DMF as an azeotrope with xylenes after 3.75 hours. Purify by flash 40 chromatography, eluting with 30% ethyl acetate in hexanes to give a mixture of (2-(4-(4-fluorobenzenesulfonyl)oxyphenyl)ethyl)carbamic acid tert-butyl ester and the title compound: HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 50-99% over 19 min], tR=16.1 min, 35% purity; TLC [silica gel 60 F254, 5% ethyl acetate in hexanes] Rf=0.49.

reactant | [2-(4-hydroxyphenyl)ethyl]carbamic acid tert-butyl ester | 2.50 mmol, 0.594 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | NaH | 2.75 mmol, 0.083 g | [H-].[Na+]
reactant | 4-fluorobenzenesulfonyl azide | 2.50 mmol, 0.504 g | FC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C6H4FN3O2S
reactant | (2-(4-(4-fluorobenzenesulfonyl)oxyphenyl)ethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)F)=O | C19H22FNO5S
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
product | {2-[4-(4-Azidosulfonylphenoxy)phenyl]ethyl} carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])=O | C19H22N4O5S
